US07432266B2
A solution of 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxaldehyde (1.00 g, 4.13 mmol) in 40 mL of tetrahydrofuran under argon was cooled to −78° C. and with stirring treated with 3 mL of 3 M methylmagnesium chloride in tetrahydrofuran. The reaction was stirred at −78° C. for 1 hour, slowly warmed to room temperature overnight and then quenched by addition of 100 mL of saturated aqueous NH4Cl. The mixture was extracted with 3×50 mL of ethyl acetate and the combined organic fractions were dried over sodium sulfate and concentrated to give 1-(1-cyclopentyl-3-ethyl-1H-indazol-6-yl)ethanol as a yellow solid. The crude residue was not purified but used as such in the next step.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxaldehyde | 4.13 mmol, 1.00 g | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C=O)CC | C15H18N2O
reactant | methylmagnesium chloride | 3 M, 3 mL | C[Mg]Cl
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-(1-cyclopentyl-3-ethyl-1H-indazol-6-yl)ethanol | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(C)O)CC | C16H22N2O
